US04564479
The procedure described in Example 26 is repeated, but using 5.35 g (25 mmols) of 4-bromoacetanilide and 2.99 ml (27.5 mmols) of ethyl acrylate. After a reaction time of 12 hours at 130° C. and working up as described in Example 1, recrystallisation of the crude product from toluene gives 0.60 g (2.6 mmols) of ethyl 4-(N-acetylamino)-cinnamate as pale yellow crystals of melting point 133° C.; yield 10% of theory (conversion figure 1000; Pd content 0.01 mol %). Analysis for C13H15NO3 (molecular weight 233): calculated C 66.92; H 6.48; N 6.01; O 20.59, found C 66.52; H 6.38; N 6.07; O 20.59.

reactant | 4-bromoacetanilide | 25 mmols, 5.35 g | CC(=O)NC1=CC=C(C=C1)Br | C8H8BrNO
reactant | ethyl acrylate | 27.5 mmols, 2.99 ml | C(C=C)(=O)OCC | C5H8O2
product | ethyl 4-(N-acetylamino)-cinnamate | 2.6 mmols, 0.60 g, yield 10% | C(C)(=O)NC1=CC=C(C=CC(=O)OCC)C=C1 | C13H15NO3
